* C:\Users\Romain Vitrat\Documents\Travaux personnels\Elec\PowerMeter\power_meter.asc
V2 AC+ 0 SINE(0 325 50)
C3 N001 AC+ 2µ
R4 N002 N001 200
D5 0 N002 BZX84C6V2L
C4 0 V_out 2000µ
D1 N002 V_out D
R2 AC+ 0 100
R3 AC+ N006 500k
R5 N006 0 100
Q1 N003 N007 N008 0 NPN
R6 N007 0 2k
R7 V_out_th N007 4k
R8 V_out_th N003 8265
R9 N008 0 1800
C1 N007 N006 100µ
V1 V_out_th 0 3.3
XU1 N003 N005 V_out_th 0 N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R11 V_out_th N005 10k
R12 N005 0 10k
R1 N004 N005 20k
.model D D
.lib C:\Users\Romain Vitrat\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Romain Vitrat\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 2 0 100u
.lib UniversalOpamps2.sub
.backanno
.end
